US09422331B2
To a rt suspension of (3-methylquinolin-4-yl)methanol (90 mg, 520 μmol) in CH2Cl2 (5.2 ml) was added triethylamine (145 μl, 1.04 mmol), followed by methanesulfonyl chloride (48.4 μl, 624 μmol), dropwise. The reaction was stirred at rt for 2 h, then diluted with CH2Cl2, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. This material was mixed with tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (167 mg, 336 μmol), cesium carbonate (142 mg, 437 μmol), and sodium iodide (65.5 mg, 437 μmol) in DMF (841 μl). The reaction was stirred at rt for 3.5 days, then diluted with EtOAc, washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl methyl((S)-1-((2S,3S)-2-methyl-5-((3-methylquinolin-4-yl)methyl)-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate (142 mg, 65%) as a white solid. MS m/z 652 (MH)+.

reactant | (3-methylquinolin-4-yl)methanol | 520 μmol, 90 mg | CC=1C=NC2=CC=CC=C2C1CO | C11H11NO
reactant | triethylamine | 1.04 mmol, 145 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 624 μmol, 48.4 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 336 μmol, 167 mg | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(NC2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)=O)C | C22H32N4O7S
reactant | cesium carbonate | 437 μmol, 142 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 437 μmol, 65.5 mg | [I-].[Na+]
solvent | CH2Cl2 | 5.2 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 841 μl | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl methyl((S)-1-((2S,3S)-2-methyl-5-((3-methylquinolin-4-yl)methyl)-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl)carbamate | 142 mg, 65% | CN(C(OC(C)(C)C)=O)[C@H](C(=O)N[C@@H]1C(N(C2=C(N([C@H]1C)C(CS(=O)(=O)C)=O)C=CC=C2)CC2=C(C=NC1=CC=CC=C21)C)=O)C | C33H41N5O7S
